US09034866B2
This compound was prepared according to a procedure similar to that described in Procedure B. Into a solution of Ethynyl-triisopropyl-silane (1.1 g, 6 mmol) in tetrahydrofuran (10 mL) was dropped in n-BuLi (2.4 mL, 6 mmol) at −78° C. The solution was stirred for 0.5 h. Then 1-Methyl-pyrrolidin-3-one (0.5 g, 5 mmol) was added. The solution was allowed to warm up to room temperature and stirred for 3 h. Then the reaction mixture was added in 50 mL EtOAc and washed with water three times. The solvent was removed under vacuum to afford 1-Methyl-3-[(triisopropylsilanyl)-ethynyl]-pyrrolidin-3-ol (0.55 g, 39%). 1H NMR (DMSO-d6, 400 MHz): δ 5.53 (s, 1H), 2.74-2.63 (m, 2H), 2.46-2.44 (m, 1H), 2.23 (s, 3H), 2.13-1.96 (m, 2H), 1.07-0.97 (m, 21H). A solution of 1-Methyl-3-[(triisopropylsilanyl)-ethynyl]-pyrrolidin-3-ol (1.0 g, 3.6 mmol) in tetrahydrofuran (10 mL) was treated with Tetrabutyl-ammonium fluoride (0.94 g, 3.6 mmol). The solution was stirred overnight at room temperature. Then the reaction mixture was purified by column (eluent: CH2Cl2: MeOH=10:1) to afford 3-Ethynyl-1-methyl-pyrrolidin-3-ol (0.26 g, 58%). 1H NMR (DMSO-d6, 400 MHz): δ 5.55 (s, 1H), 3.31 (s, 1H), 2.74-2.56 (m, 3H), 2.49-2.46 (m, 1H), 2.22 (s, 3H), 2.11-1.91 (m, 2H).

reactant | Ethynyl-triisopropyl-silane | 6 mmol, 1.1 g | C(#C)[Si](C(C)C)(C(C)C)C(C)C | C11H22Si
reactant | n-BuLi | 6 mmol, 2.4 mL | [Li]CCCC
reactant | 1-Methyl-pyrrolidin-3-one | 5 mmol, 0.5 g | CN1CC(CC1)=O | C5H9NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-Methyl-3-[(triisopropylsilanyl)-ethynyl]-pyrrolidin-3-ol | 0.55 g, 39% | CN1CC(CC1)(O)C#C[Si](C(C)C)(C(C)C)C(C)C | C16H31NOSi
